*****< 出力電圧範囲用テストベンチ >*****
.lib OVR

*****< Parameters >*****
.param half='psvoltage/2'
.param rload=20k

*****< Power_Supply >*****
VDD vdd gnd 'half'
VSS gnd vss 'half'

******< Input >******
VIN in1 gnd dc 0
E1  gnd in2 in1 gnd 1

*****< Circuit Topology >*****
* Positive side
X1a inm1 gnd out1 vdd vss opamp
R1a in1 inm1 rload
R2a inm1 out1 rload

* Negative side
X1b inm2 gnd out2 vdd vss opamp
R1b in2 inm2 rload
R2b inm2 out2 rload

* offset voltage
X1c inm3 gnd os vdd vss opamp
R1c gnd inm3 rload
R2c inm3 os  rload

******< Control >******
.DC VIN 10m half '(half-10m)/1000'
* .PRINT V(out1,os) V(out2,os)
* + PAR'1-ABS(V(out1,os))/V(in1)' PAR'1-ABS(V(out2,os))/V(in1)'
.TEMP 25

******< Measure command >******
.MEAS DC Vorn find V(in1) When par'1-ABS(V(out1,os))/V(in1)'=0.05 rise=1
.MEAS DC Vorp find V(in1) When par'1-ABS(V(out2,os))/V(in1)'=0.05 rise=1
.MEAS DC Vor param=Vorp+Vorn
.MEAS DC ovr param=100*Vor/psvoltage

.endl